US04075342
2-(m-Methoxyphenyl)pyrazolo[5,1-a]isoquinoline
To a solution of 2.5 g. of 2-(m-methoxyphenyl)-5,6-dihydro-pyrazolo[5,1-a]isoquinoline in 100 ml. of benzene is gradually added with stirring 30 g. of MnO2 prepared as described by E. Pratt et al., J. Org. Chem. 26, 2973 (1961) and activated according to the procedure of J. M. Goldman, J. Org. Chem. 34, 1979 (1969). The obtained mixture is refluxed with stirring for five days, then filtered. The filtrate after evaporation and crystallization of the solid residue from isopropyl ether gives 1 g. of the title product, m.p. 109°-11° C.

reactant | 2-(m-methoxyphenyl)-5,6-dihydro-pyrazolo[5,1-a]isoquinoline | COC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=C1 | C18H16N2O
catalyst | MnO2 | O=[Mn]=O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(m-Methoxyphenyl)pyrazolo[5,1-a]isoquinoline | COC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3C=C2)=C1 | C18H14N2O
